US06013649
Part C: (471 mg, 1.8 mmol) of triphenylphosphine and (520 mg, 1.8 mmol) of N-[1-(hydroxymethyl)-2-[(4-methoxyphenyl)sulfonyl)ethyl)acetamide were dissolved in 15 mL of tetrahydrofuran and cooled to zero C. under nitrogen atmosphere. To this was added (313 mg, 1.8 mmol) of diethyldiazodicarboxylate, followed by (140 mg, 1.8 mmol) of thioacetic acid and the solution stirred for 2 hours. The resulting clear solution was concentrated by rotory evaporation and subjected to silica gel chromatography using 15% methanol in ethyl acetate as the eluant to provide a mixture of triphenylphosphine oxide and the desired N-[1-(thioacetylmethyl)-2-[(4-methoxyphenyl)sulfonyl)ethyl)acetamide in equal molar ratios. This mixture was dissolved in 10 ml of methanol and to this was added 1 mL of 25% sodium methoxide in methanol and this stirred for 30 minutes. The solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The resulting organics were concentrated and purified by reverse phase C18 chromatography to yield 150 mg of N-[1-(mercaptomethyl)-2-[(4-methoxyphenyl)sulfonyl)ethyl)acetamide, m/e=310 (M+Li).

reactant | triphenylphosphine | 1.8 mmol, 471 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-[1-(hydroxymethyl)-2-[(4-methoxyphenyl)sulfonyl)ethyl)acetamide | 1.8 mmol, 520 mg | OCC(CS(=O)(=O)C1=CC=C(C=C1)OC)NC(C)=O | C12H17NO5S
reactant | diethyldiazodicarboxylate | 1.8 mmol, 313 mg | C(C)OC(=O)[N+](=[N-])C(=O)OCC | C6H10N2O4
reactant | thioacetic acid | 1.8 mmol, 140 mg | C(C)(=S)O | C2H4OS
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | N-[1-(thioacetylmethyl)-2-[(4-methoxyphenyl)sulfonyl)ethyl)acetamide | C(C)(=S)CC(CS(=O)(=O)C1=CC=C(C=C1)OC)NC(C)=O | C14H19NO4S2
reactant | sodium methoxide | 1 mL | C[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | N-[1-(mercaptomethyl)-2-[(4-methoxyphenyl)sulfonyl)ethyl)acetamide | 150 mg | SCC(CS(=O)(=O)C1=CC=C(C=C1)OC)NC(C)=O | C12H17NO4S2
